US08097628B2
MnO2 (165 mg, 1.903 mmol) was added to a solution of 5-(hydroxymethyl)-3-methyl-2-pyridinecarbonitrile (28.2 mg, 0.190 mmol) in DCM (2 ml) at rt and the mixture was stirred at that temperature overnight. LCMS showed the starting material was gone. The solids were filtered off and the solvent evaporated. 5-Formyl-3-methyl-2-pyridinecarbonitrile (20.2 mg) was obtained impure. It was used in the next step without prior purification.

reactant | 5-(hydroxymethyl)-3-methyl-2-pyridinecarbonitrile | 0.190 mmol, 28.2 mg | OCC=1C=C(C(=NC1)C#N)C | C8H8N2O
solvent | DCM | 2 ml | C(Cl)Cl | CH2Cl2
catalyst | MnO2 | 1.903 mmol, 165 mg | O=[Mn]=O
product | 5-Formyl-3-methyl-2-pyridinecarbonitrile | 20.2 mg | C(=O)C=1C=C(C(=NC1)C#N)C | C8H6N2O
